*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e-01[uF]/6.3[V]
* Murata P/N :GRM152R60J104ME19
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM152R60J104ME19 Port1 Port2
C01 Port1 N01 9.55e-08
R01 Port1 N01 5.00e+08
L02 N01 N02 1.89e-10
R03 N02 N03 2.95e-02
C04 N03 N04 8.69e-06
R04 N03 N04 4.58e+02
C05 N04 N05 8.93e-06
R05 N04 N05 8.72e+01
C06 N05 N06 1.35e-05
R06 N05 N06 7.25e+00
C07 N06 N07 1.72e-05
R07 N06 N07 9.56e-01
C08 N07 N08 1.35e-05
R08 N07 N08 2.39e-01
C09 N08 N09 8.77e-06
R09 N08 N09 4.22e-02
C10 N09 N10 8.43e-06
R10 N09 N10 6.76e-03
L11 N10 N11 2.13e-11
R11 N10 N11 1.93e-01
L12 N11 N12 5.00e-11
R12 N11 N12 7.66e-02
C13 N12 N13 5.16e-08
L13 N12 N13 3.08e-11
R13 N12 N13 1.52e-02
C14 N13 Port2 1.57e-11
L14 N13 Port2 2.08e-11
R14 N13 Port2 2.65e+00
.ENDS GRM152R60J104ME19
